US09079853B2
1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one
To a clean dry flask equipped with a stir bar was added the N-butyl isatin (0.4 grams, 1.97 mmol, 0.3 M in Methanol). 2-acetyl pyridine (0.44 mL, 3.94 mmol, purchased from Fisher Scientific) was then added to the stirring solution followed by 49 μL of dimethyl amine (40% by weight in water, purchased from Fisher Scientific). The stirring solution was stirred overnight at room temperature. The next day the solution was heated to 60° C. for 5 minutes. The solution was then concentrated and purified on a silica gel column using hexanes/ethyl acetate (2:1) to afford 0.513 grams, 80% yield. 1H-NMR δ 8.69 (d, 1H), 8.14 (d, 1H), 7.92 (t, 1H), 7.56 (m, 1H) 7.30 (m, 2H), 7.06 (t, 1H), 6.87 (d, 2H), 3.81 (d, 1H), 3.69 (m, 2H), 3.52 (d, 1H), 1.71 (m, 2H), 1.43 (m, 2H), 0.97 (t, 3H). Calculated mass for C19H20N2O3, 324.37. Observed 325.0 (M+1), 347.2 (M+Na).

reactant | N-butyl isatin | 1.97 mmol, 0.3 M, 0.4 grams | C(CCC)N1C(=O)C(=O)C2=CC=CC=C12 | C12H13NO2
reactant | 2-acetyl pyridine | 3.94 mmol, 0.44 mL | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | dimethyl amine | 49 μL | CNC | C2H7N
product | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | 80% yield | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
